US07498337B2
tert-butyl{[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
To a solution of 1-[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine (4.4 g) in ethyl acetate (60 mL) was added di-tert-butyl bicarbonate (2.8 mL), and the mixture was stirred at room temperature for 14 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a colorless oil (yield 3.4 g, 73%).

reactant | 1-[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine | 4.4 g | BrC1=CC(=CN1S(=O)(=O)C1=CC=CC=C1)CNC | C12H13BrN2O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl{[5-bromo-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 3.4 g, 73% | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)Br)S(=O)(=O)C1=CC=CC=C1)=O | C17H21BrN2O4S
